### PR TITLE
[Merged by Bors] - feat: Small lemmas around |a - b| and Int.natAbs (a - b)

### PR DESCRIPTION
**Pull request by adri326**
Proves the following statements:
- if `0 ≤ a ≤ n` and `0 ≤ b ≤ n`, then `|a - b| ≤ n` (similarly with `|a - b| < n`)
- `0 < |a - b|` iff `a ≠ b`

---

~~The lemmas for `g ^ |i| = 1` iff `g ^ i = 1` are marked as simp, since the rewrite is strictly decreasing and may unlock later simplifications.~~ These have been outsourced to #10559

The lemmas for `0 < |a - b|` iff `a ≠ b` provide an easier-to-work-with form (`a ≠ b`), but since other similar lemmas are not marked as simp (eg. [Int.natAbs_pos](https://leanprover-community.github.io/mathlib4_docs/Std/Data/Int/Order.html#Int.natAbs_pos)), I chose to not mark these ones as simp either.

- [x] depends on: #10559

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by adri326** [comment]
I do not know where I can place `zpow_abs_eq_one_iff` as a lemma:
- `Mathlib/Algebra/GroupPower/Basic.lean` does not have absolute values defined yet
- `Mathlib/Algebra/GroupPower/Order.lean`  does not either
- `Mathlib/Algebra/Order/Group/Abs.lean` does have absolute values, but doesn't yet have an instance for `LinearOrderedAddCommGroup ℤ`, so I can't reason about absolute values in `zpow` there, unless if I add an ugly `[LinearOrderedAddCommGroup ℤ]` instance requirement
- `Mathlib/Data/Int/Order/Basic.lean` has all of the necessary imports, but placing lemmas about zpow of groups in this file feels wrong

File: Mathlib/Algebra/Order/Group/Abs.lean [hunk 1]
```diff
@@ -456,6 +456,18 @@ theorem abs_abs_sub_abs_le_abs_sub (a b : α) : |(|a| - |b|)| ≤ |a - b| :=
     ⟨abs_sub_abs_le_abs_sub _ _, by rw [abs_sub_comm]; apply abs_sub_abs_le_abs_sub⟩
 #align abs_abs_sub_abs_le_abs_sub abs_abs_sub_abs_le_abs_sub
 
+/-- `|a - b| ≤ n` if `0 ≤ a ≤ n` and `0 ≤ b ≤ n`. -/
+theorem abs_sub_le_of_nonneg_of_le {a b n : α} (a_nonneg : 0 ≤ a) (a_le_n : a ≤ n)
+    (b_nonneg : 0 ≤ b) (b_le_n : b ≤ n) : |a - b| ≤ n := by
+  rw [abs_sub_le_iff, @sub_le_iff_le_add α, @sub_le_iff_le_add α]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Group/Abs.lean:462]: Do you need the `@`s here?

File: Mathlib/Algebra/Order/Group/Abs.lean [hunk 2]
```diff
@@ -510,6 +522,11 @@ theorem eq_of_abs_sub_nonpos (h : |a - b| ≤ 0) : a = b :=
   eq_of_abs_sub_eq_zero (le_antisymm h (abs_nonneg (a - b)))
 #align eq_of_abs_sub_nonpos eq_of_abs_sub_nonpos
 
+theorem abs_sub_pos_iff_ne : 0 < |a - b| ↔ a ≠ b :=
+  ⟨fun h eq => (lt_self_iff_false (0 : α)).mp (by
+    rwa [eq, sub_self, abs_zero] at h),
+  fun h => lt_iff_not_le.mpr (mt eq_of_abs_sub_nonpos h)⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Group/Abs.lean:528]:
```suggestion
theorem abs_sub_pos_iff_ne : 0 < |a - b| ↔ a ≠ b :=
  ⟨fun h eq => lt_irrefl (0 : α) (by rwa [eq, sub_self, abs_zero] at h),
  fun h => lt_of_not_le (mt eq_of_abs_sub_nonpos h)⟩
```

File: Mathlib/Data/Int/Lemmas.lean [hunk 3]
```diff
@@ -77,6 +77,22 @@ theorem natAbs_inj_of_nonpos_of_nonneg {a b : ℤ} (ha : a ≤ 0) (hb : 0 ≤ b)
   simpa only [Int.natAbs_neg] using natAbs_inj_of_nonneg_of_nonneg (neg_nonneg_of_nonpos ha) hb
 #align int.nat_abs_inj_of_nonpos_of_nonneg Int.natAbs_inj_of_nonpos_of_nonneg
 
+/-- A specialization of `abs_sub_le_of_nonneg_of_le` for working with the signed subtraction
+  of natural numbers. -/
+theorem natAbs_coe_sub_coe_le_of_le {a b n : ℕ} (a_le_n : a ≤ n) (b_le_n : b ≤ n) :
+    natAbs (↑b - ↑a) ≤ n := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Int/Lemmas.lean:83]: Using up-arrows rather than type ascriptions can confuse lean (though probably never here); this is perhaps more readable and robust:
```suggestion
    natAbs (b - a : ℤ) ≤ n := by
```

File: Mathlib/Data/Int/Lemmas.lean [hunk 4]
```diff
@@ -77,6 +77,22 @@ theorem natAbs_inj_of_nonpos_of_nonneg {a b : ℤ} (ha : a ≤ 0) (hb : 0 ≤ b)
...
+  rw [← Nat.cast_le (α := ℤ), coe_natAbs, abs_sub_comm]
+  exact abs_sub_le_of_nonneg_of_le (ofNat_nonneg a) ((Nat.cast_le (α := ℤ)).mpr a_le_n)
+    (ofNat_nonneg b) ((Nat.cast_le (α := ℤ)).mpr b_le_n)
+
+/-- A specialization of `abs_sub_lt_of_nonneg_of_lt` for working with the signed subtraction
+  of natural numbers. -/
+theorem natAbs_coe_sub_coe_lt_of_lt {a b n : ℕ} (a_lt_n : a < n) (b_lt_n : b < n) :
+    natAbs (↑b - ↑a) < n := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Int/Lemmas.lean:91]:
```suggestion
    natAbs (b - a : ℤ) < n := by
```

File: Mathlib/Data/Int/Order/Basic.lean [hunk 5]
```diff
@@ -121,6 +121,11 @@ lemma cast_mul_eq_zsmul_cast {α : Type*} [AddCommGroupWithOne α] :
     simp only [sub_mul, one_mul, cast_sub, ih, sub_zsmul, one_zsmul, ← sub_eq_add_neg, forall_const]
 #align int.cast_mul_eq_zsmul_cast Int.cast_mul_eq_zsmul_cast
 
+theorem natAbs_add_neg_pos_iff (i j : ℤ) : 0 < natAbs (i + -j) ↔ i ≠ j := by
+  rw [natAbs_pos, ne_eq, add_neg_eq_zero]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Int/Order/Basic.lean:125]: Are there any theorem statements about `x + -y` in mathlib besides `sub_eq_add_neg`? Do you really need this variant?

Comment (adri326) [reply Mathlib/Data/Int/Order/Basic.lean:125]: `sub_eq_add_neg` isn't a `@[simp]`, so my reasoning was that by doing so I'd enable some simps. To be fair I can do this transformation at call site and scrap this variant alltogether

File: Mathlib/Algebra/Order/Group/Abs.lean (hunk 1 above)
Comment (adri326) [reply Mathlib/Algebra/Order/Group/Abs.lean:462]: I remember I used to at some point in time, but now it seems to work without

**Comment by jcommelin** [comment]
> I do not know where I can place `zpow_abs_eq_one_iff` as a lemma:
> 
>     * `Mathlib/Algebra/GroupPower/Basic.lean` does not have absolute values defined yet
> 
>     * `Mathlib/Algebra/GroupPower/Order.lean`  does not either
> 
>     * `Mathlib/Algebra/Order/Group/Abs.lean` does have absolute values, but doesn't yet have an instance for `LinearOrderedAddCommGroup ℤ`, so I can't reason about absolute values in `zpow` there, unless if I add an ugly `[LinearOrderedAddCommGroup ℤ]` instance requirement
> 
>     * `Mathlib/Data/Int/Order/Basic.lean` has all of the necessary imports, but placing lemmas about zpow of groups in this file feels wrong

Does `#find_home` suggest better files?

When in doubt, feel free to start a new file.

**Comment by adri326** [comment]
Running `#find_home` of a copy of the lemmas after importing `Mathlib` makes it suggest `Mathlib.Data.Int.Order.Basic` (where it is currently). I'm also iffy at the idea of creating a dedicated module for it, since @YaelDillies just removed a week ago modules for lemmas that didn't need to be in separate modules anymore, so I'd like to first know what his opinion is on the issue

**Comment by YaelDillies** [comment]
`zpow_abs_eq_one` can't be any earlier than `Data.Int.Order.Basic` because that's where the absolute value over `ℤ` is defined. `pow_natAbs_eq_one`, however, can move all the way up to `Algebra.Group.Basic` with a much simpler proof. Moving it there also helps golf a lemma.

**Comment by adri326** [comment]
Yeah, that looks definitely cleaner

File: Mathlib/Algebra/Order/Group/Abs.lean [hunk 6]
```diff
@@ -510,6 +522,10 @@ theorem eq_of_abs_sub_nonpos (h : |a - b| ≤ 0) : a = b :=
   eq_of_abs_sub_eq_zero (le_antisymm h (abs_nonneg (a - b)))
 #align eq_of_abs_sub_nonpos eq_of_abs_sub_nonpos
 
+theorem abs_sub_pos_iff_ne : 0 < |a - b| ↔ a ≠ b :=
+  ⟨fun h eq => lt_irrefl (0 : α) (by rwa [eq, sub_self, abs_zero] at h),
+  fun h => lt_iff_not_le.mpr (mt eq_of_abs_sub_nonpos h)⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Group/Abs.lean:527]: Perhaps:
```suggestion
@[simp]
theorem abs_sub_nonpos_iff_eq : |a - b| ≤ 0 ↔ a = b :=
  ⟨eq_of_abs_sub_nonpos, by rintro rfl; rw [sub_self, abs_zero]⟩

theorem abs_sub_pos_iff_ne : 0 < |a - b| ↔ a ≠ b :=
  not_le.symm.trans abs_sub_nonpos_iff_eq.not
```

though I might drop the `iff_eq`/`iff_ne` suffixes as well

**Review by Ruben-VandeVelde — APPROVED** [review]
Looks good; one suggestion:

File: Mathlib/Data/Int/Lemmas.lean [hunk 7]
```diff
@@ -77,6 +77,22 @@ theorem natAbs_inj_of_nonpos_of_nonneg {a b : ℤ} (ha : a ≤ 0) (hb : 0 ≤ b)
   simpa only [Int.natAbs_neg] using natAbs_inj_of_nonneg_of_nonneg (neg_nonneg_of_nonpos ha) hb
 #align int.nat_abs_inj_of_nonpos_of_nonneg Int.natAbs_inj_of_nonpos_of_nonneg
 
+/-- A specialization of `abs_sub_le_of_nonneg_of_le` for working with the signed subtraction
+  of natural numbers. -/
+theorem natAbs_coe_sub_coe_le_of_le {a b n : ℕ} (a_le_n : a ≤ n) (b_le_n : b ≤ n) :
+    natAbs (b - a : ℤ) ≤ n := by
+  rw [← Nat.cast_le (α := ℤ), coe_natAbs, abs_sub_comm]
+  exact abs_sub_le_of_nonneg_of_le (ofNat_nonneg a) ((Nat.cast_le (α := ℤ)).mpr a_le_n)
+    (ofNat_nonneg b) ((Nat.cast_le (α := ℤ)).mpr b_le_n)
```
Comment (adomani) [inline Mathlib/Data/Int/Lemmas.lean:86]:
```suggestion
    natAbs (a - b : ℤ) ≤ n := by
  rw [← Nat.cast_le (α := ℤ), coe_natAbs]
  exact abs_sub_le_of_nonneg_of_le (ofNat_nonneg a) (Nat.cast_le.mpr a_le_n)
    (ofNat_nonneg b) (Nat.cast_le.mpr b_le_n)
```
Why do you switch the order of `a` and `b`?  Also, some of the implicit arguments can be automatically inferred.

Similar comments for the next lemma.

Comment (adri326) [reply Mathlib/Data/Int/Lemmas.lean]: `Nat.cast_le` was giving me trouble with not being able to infer the target type before `.mpr` was called on it

File: Mathlib/Data/Int/Order/Basic.lean [hunk 8]
```diff
@@ -121,6 +121,8 @@ lemma cast_mul_eq_zsmul_cast {α : Type*} [AddCommGroupWithOne α] :
     simp only [sub_mul, one_mul, cast_sub, ih, sub_zsmul, one_zsmul, ← sub_eq_add_neg, forall_const]
 #align int.cast_mul_eq_zsmul_cast Int.cast_mul_eq_zsmul_cast
 
+theorem natAbs_sub_pos_iff (i j : ℤ) : 0 < natAbs (i - j) ↔ i ≠ j := by
```
Comment (YaelDillies) [inline Mathlib/Data/Int/Order/Basic.lean:124]:
```suggestion
theorem natAbs_sub_pos_iff {i j : ℤ} : 0 < natAbs (i - j) ↔ i ≠ j := by
```
and you're missing the `ne_zero` version

File: Mathlib/Algebra/Order/Group/Abs.lean (hunk 6 above)
Comment (adri326) [reply Mathlib/Algebra/Order/Group/Abs.lean]: The lhs or `abs_sub_nonpos` simplifies to `a - b = 0`, so I can't really have it as `@[simp]`

**Comment by Ruben-VandeVelde** [comment]
I think everything has been addressed here.

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
